US08557805B2
{2-[5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
To a solution of ethyl{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (1.0 g) in ethanol (10 mL) and tetrahydrofuran (10 mL) was added 1N aqueous sodium hydroxide solution (5 mL), and the mixture was stirred at room temperature for 15 hr. To the reaction mixture was added 1N hydrochloric acid (5 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (0.95 g, yield 100%) as a yellow amorphous solid.

reactant | ethyl{2-[5-({6-[(methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 1.0 g | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)CS(=O)(=O)C)OC1CCOCC1)=O | C27H31N3O7S2
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {2-[5-({6-[(Methylsulfonyl)methyl]pyridin-3-yl}oxy)-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 0.95 g, yield 100% | CS(=O)(=O)CC1=CC=C(C=N1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C=1SC(CN1)CC(=O)O | C25H27N3O7S2
